US08372842B2
tert-Butyl 2,2-dimethyl-5-oxopyrrolidine-1-carboxylate (1.17 g, 5.49 mmol) was dissolved in Et2O (15 mL) and cooled to −78° C. The solution was treated with DIBAL-H (3.73 mL, 5.60 mmol). The mixture was stirred at −78° C. for 2 hours and then warmed to ambient temperature overnight. The reaction was quenched by addition of an aliquot (7 mL) of a solution of p-toluenesulfonic acid hydrate (0.012 g) in MeOH (12 mL). The mixture was stirred at ambient temperature for 60 hours. The suspension was concentrated in vacuo and re-suspended in a mixture of Rochelle's salt (0.5N) and ethyl acetate. After separation, the aqueous portion was washed with ethyl acetate (2×). The combined organics were then washed with saturated NaCl, dried over Na3SO4 and concentrated in vacuo to an oil (92%). A solution of titanium(IV) chloride (3.71 mL, 3.71 mmol) in toluene was cooled to 0° C. and treated with a solution of (R)-4-benzyl-3-(2-(4-chlorophenyl)acetyl)oxazolidin-2-one (1.11 g, 3.38 mmol) dissolved in dichloromethane (7 mL). After 5 minutes, diisopropylethylamine (0.647 mL, 3.71 mmol) was added. The resultant solution was stirred for 1 hour at 0° C. and then cooled to −20° C. A solution of tert-butyl 5-hydroxy-2,2-dimethylpyrrolidine-1-carboxylate (1.09 g, 5.06 mmol) in dichloromethane (7 mL) was added, and the mixture was stirred at −20° C. for 75 minutes. The reaction was quenched with saturated NH4Cl (about 4 mL) and diluted with water to dissolve the solids. After separation, the aqueous portion was washed with methylene chloride (3×). The combined organics were washed with water (2×), dried over Na3SO4 and concentrated in vacuo. The crude product was subjected to chromatography on SiO2 and eluted with 9:1 hexanes/ethyl acetate to produce (S)-tert-butyl 5-((S)-2-((R)-4-benzyl-2-oxooxazolidin-3-yl)-1-(4-chlorophenyl)-2-oxoethyl)-2,2-dimethylpyrrolidine-1-carboxylate (1.62 g, 61%). MS (ESI+) [M+H] 526.7/528.8.

reactant | tert-Butyl 2,2-dimethyl-5-oxopyrrolidine-1-carboxylate | 5.49 mmol, 1.17 g | CC1(N(C(CC1)=O)C(=O)OC(C)(C)C)C | C11H19NO3
reactant | DIBAL-H | 5.60 mmol, 3.73 mL | CC(C)C[AlH]CC(C)C
reactant | (R)-4-benzyl-3-(2-(4-chlorophenyl)acetyl)oxazolidin-2-one | 3.38 mmol, 1.11 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(CC1=CC=C(C=C1)Cl)=O | C18H16ClNO3
reactant | diisopropylethylamine | 3.71 mmol, 0.647 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tert-butyl 5-hydroxy-2,2-dimethylpyrrolidine-1-carboxylate | 5.06 mmol, 1.09 g | OC1CCC(N1C(=O)OC(C)(C)C)(C)C | C11H21NO3
solvent | Et2O | 15 mL | CCOCC | C4H10O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
catalyst | titanium(IV) chloride | 3.71 mmol, 3.71 mL | [Ti](Cl)(Cl)(Cl)Cl
product | (S)-tert-butyl 5-((S)-2-((R)-4-benzyl-2-oxooxazolidin-3-yl)-1-(4-chlorophenyl)-2-oxoethyl)-2,2-dimethylpyrrolidine-1-carboxylate | 1.62 g, 61% | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](C1=CC=C(C=C1)Cl)[C@@H]1CCC(N1C(=O)OC(C)(C)C)(C)C)=O | C29H35ClN2O5
